US04218559
4a,8a-Dimethyldecahydropyrazino[2,3-b]pyrazine
The compound was prepared in 37% yield by reacting ethylenediamine with biacetyl according to the method of Stetter, Chem. Ber. 86, 69 (1953).

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | biacetyl | C(=O)(C)C(=O)C | C4H6O2
product | 4a,8a-Dimethyldecahydropyrazino[2,3-b]pyrazine | 37% yield | CC12C(NCCN1)(NCCN2)C | C8H18N4
